US05116813
6-methyl-4-decen-1-ol was prepared in the same manner according to Example 4 except that 97.5 g (0.5 mol) of ethyl 4-bromobutyrate was used in place of ethyl 5-bromovalerate and 57.1 g (0.5 mol) of 2-methyl hexanal was used in place of 2-methyl valeraldehyde.

reactant | ethyl 4-bromobutyrate | 0.5 mol, 97.5 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | 2-methyl hexanal | 0.5 mol, 57.1 g | CC(C=O)CCCC | C7H14O
product | 6-methyl-4-decen-1-ol | Yield: 52% | CC(C=CCCCO)CCCC | C11H22O
